US07700655B2
(2) 2-Benzyloxy-5-cyanobenzoic acid benzyl ester
A mixture of 2-benzyloxy-5-formylbenzoic acid benzyl ester (693 mg, 2 mmol), hydroxylamine hydrochloride (167 mg, 2.4 mmol), and N-methylpyrrolidone (3 mL) was stirred at 115□ for 4 hours. After the reaction mixture was cooled, 2N hydrochloric acid (5 mL) and water (30 mL) were added and the mixture was extracted with ethyl acetate. The organic layer was washed with 2N aqueous sodium hydroxide, water, and brine, and dried over anhydrous magnesium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was suspended and washed with isopropyl ether under heating at reflux to give the title compound (527 mg, 76.7%) as a white solid.

reactant | 2-benzyloxy-5-formylbenzoic acid benzyl ester | 2 mmol, 693 mg | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C=O)OCC1=CC=CC=C1)=O | C22H18O4
reactant | hydroxylamine hydrochloride | 2.4 mmol, 167 mg | Cl.NO
reactant | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 2N, 5 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 2-Benzyloxy-5-cyanobenzoic acid benzyl ester | 527 mg, 76.7% | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#N)OCC1=CC=CC=C1)=O | C22H17NO3
